US08957104B2
To an ice-cold solution of (R)-1-(1-(methylthio)propan-2-yl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.560 g, 1.88 mmol) in MeOH (10 mL) was added a solution of Oxone (4.04 g, 6.57 mmol) in water (10 mL). After 50 min, the reaction mixture was diluted with water (30 mL) and extracted with EtOAc (50 mL). The organic phase was washed with brine, dried over Na2SO4, filtered and concentrated. The residue was chromatographed over silica gel using 100% CH2Cl2 to give (R)-1-(1-(methylsulfonyl)propan-2-yl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile as a white foam that was crystallized from CH2Cl2/hexanes to afford a white solid (0.508 g, 79% yield): 1H NMR (400 MHz, DMSO-d6) δ 8.17 (d, J=8.6 Hz, 1H), 8.12 (d, J=3.5 Hz, 1H), 7.81 (d, J=8.5 Hz, 1H), 6.87-6.84 (m, 1H), 5.43-5.35 (m, 1H), 4.01 (dd, J=14.8, 8.6 Hz, 1H), 3.83 (dd, J=14.8, 4.9 Hz, 1H), 2.77 (s, 3H), 1.59 (d, J=6.8 Hz, 3H); MS (ESI): m/z 331 (M+H).

reactant | (R)-1-(1-(methylthio)propan-2-yl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 1.88 mmol, 0.560 g | CSC[C@@H](C)N1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C14H13F3N2S
reactant | Oxone | 6.57 mmol, 4.04 g | OOS(=O)[O-].[K+]
reactant | MeOH | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | (R)-1-(1-(methylsulfonyl)propan-2-yl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CS(=O)(=O)C[C@@H](C)N1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C14H13F3N2O2S
